US05641788
According to the same manner as that described in Example 3, 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-3-valerylquinoline was reacted with imidazole to give 4-(3,4-dimethoxyphenyl)-2-(1-imidazolylmethyl)-6,7-dimethoxy-3-valerylquinoline. This compound was recrystallized from ethanol to give colorless prisms. mp. 156°-157° C.

reactant | 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-3-valerylquinoline | BrCC1=NC2=CC(=C(C=C2C(=C1C(CCCC)=O)C1=CC(=C(C=C1)OC)OC)OC)OC | C25H28BrNO5
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 4-(3,4-dimethoxyphenyl)-2-(1-imidazolylmethyl)-6,7-dimethoxy-3-valerylquinoline | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)CC=1NC=CN1)C(CCCC)=O | C28H31N3O5
